US05756821
2,2,5-Trimethyl-hex-4-en-1-ol propionate
49.7 g of 2,2,5-trimethyl-hex-4-en-1-ol, 70 ml of propionic anhydride and 0.1 ml of phosphoric acid are stirred at room temperature. 300 ml of tert-butyl methyl ether are added, the mixture is washed neutral and the organic phase is distilled.

reactant | 2,2,5-trimethyl-hex-4-en-1-ol | 49.7 g | CC(CO)(CC=C(C)C)C | C9H18O
reactant | propionic anhydride | 70 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | phosphoric acid | 0.1 ml | P(O)(O)(O)=O | H3O4P
solvent | tert-butyl methyl ether | 300 ml | COC(C)(C)C | C5H12O
product | 2,2,5-Trimethyl-hex-4-en-1-ol propionate | C(CC)(=O)OCC(CC=C(C)C)(C)C | C12H22O2
